US07202252B2
By methods well known in the art 3-methoxypropyl isocyanate is converted into 8-benzyl-3-[2-(4-nitrophenyl)ethyl]-1-(3-methoxypropyl)xanthine, which in turn, is reduced with hydrazine hydrate or hydrogen gas in the presence of a palladium catalyst to yield 3-[2-(4-aminophenyl)ethyl]-8-benzyl-1-(3-methoxypropyl)xanthine.

reactant | 3-methoxypropyl isocyanate | COCCCN=C=O | C5H9NO2
reactant | 8-benzyl-3-[2-(4-nitrophenyl)ethyl]-1-(3-methoxypropyl)xanthine | C(C1=CC=CC=C1)C1=NC=2N(C(N(C(C2N1)=O)CCCOC)=O)CCC1=CC=C(C=C1)[N+](=O)[O-] | C24H25N5O5
reactant | hydrazine hydrate | O.NN
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | 3-[2-(4-aminophenyl)ethyl]-8-benzyl-1-(3-methoxypropyl)xanthine | NC1=CC=C(C=C1)CCN1C(N(C(C=2NC(=NC12)CC1=CC=CC=C1)=O)CCCOC)=O | C24H27N5O3
